US05557005
Preparation of 3-chloroisatoic anhydride
190.7 g of 90% 3-chloroanthranilic acid, corresponding to 171.6 g (1.0 mol) of 100% 3-chloroanthranilic acid, are initially introduced, in 1,970.0 g of chlorobenzene, into a four-necked flask having a stirrer, a thermometer and a reflux condenser cooled down to -20° C., and 300.0 g of phosgene are then metered in at room temperature over a period of about 3 h while stirring thoroughly. The reaction mixture is heated to 100° C. and a further 150.0 g of phosgene are passed in over a period of 2 h. After that, the mixture is stirred at 100° C. for a further 1 h, and the phosgene is subsequently removed at this temperature using nitrogen. After cooling to about 25° C., the crystals which have precipitated out are filtered off with suction, and the filter cake is washed with 2×50 ml of chlorobenzene and dried at 100° C. in vacuo. 190.0 g of 3-chloroisatoic anhydride, having a purity by GC of >99%, are obtained, corresponding to 96.2% of theory. In that which follows, m.p. stands for melting point, s.p. for solidification point and MS for mass spectrum.

reactant | 3-chloroanthranilic acid | 190.7 g | ClC1=C(C(C(=O)O)=CC=C1)N | C7H6ClNO2
reactant | 3-chloroanthranilic acid | 1.0 mol, 171.6 g | ClC1=C(C(C(=O)O)=CC=C1)N | C7H6ClNO2
reactant | phosgene | 300.0 g | C(=O)(Cl)Cl | CCl2O
reactant | phosgene | 150.0 g | C(=O)(Cl)Cl | CCl2O
solvent | chlorobenzene | 970.0 g | ClC1=CC=CC=C1 | C6H5Cl
product | 3-chloroisatoic anhydride | ClC1=C2C(C(=O)OC(N2)=O)=CC=C1 | C8H4ClNO3
